US06407116B1
Diethyl 3-methoxycarbonyl-4-nitrophenylmalonate
To a solution of diethyl malonate (8.04 ml, 52.9 mmol) in N,N-dimethylformamide (30.0 ml), potassium tert-butoxide (5.94 g, 52.9 mmol) was added, and, after complete dissolution, methyl 5-fluoro-2-nitrobenzoate (4.69 g, 26.5 mmol) obtained in Reference Example 107 was added. The reaction mixture was stirred at 60° C. for 25 hours and poured onto an iced water, made acidic with iN hydrochloric acid, and then extracted with ethyl acetate. After the extract was washed with water and dried (MgSO4), the solvent was distilled off under reduced pressure to give the title compound as an oil. This product was used in the next reaction without further purification.

reactant | diethyl malonate | 52.9 mmol, 8.04 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | potassium tert-butoxide | 52.9 mmol, 5.94 g | CC(C)([O-])C.[K+]
reactant | methyl 5-fluoro-2-nitrobenzoate | 26.5 mmol, 4.69 g | FC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H6FNO4
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30.0 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | Cl | ClH
product | Diethyl 3-methoxycarbonyl-4-nitrophenylmalonate | COC(=O)C=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC | C15H17NO8
